* C:\LTspice\anno.asc
L1 N006 OUT 10µ Rser=0.02
M1 N002 N007 N006 N006 Si4412DY
V1 IN 0 12 RSER=.01
C2 N003 0 100p
C4 N004 N001 470p
R1 N002 IN 0.033
R4 N003 0 11K
R3 OUT N003 35.7K
R2 N001 0 6.8K
D2 0 N006 MBRS340
C3 N005 N006 .1µ
C5 OUT N003 100p
C7 IN N002 1000p
Iload OUT 0 3000mA LOAD
C9 OUT 0 100µ Rser=50m
C6 OUT 0 100µ Rser=50m
C8 IN 0 22µ
C1 IN 0 22µ
XU1 N002 N004 N003 0 N006 N007 N005 IN LTC1624
.model D D
.lib C:\xp\lib\cmp\standard.dio
.lib C:\xp\lib\cmp\standard.mos
.tran 1 steady nodiscard startup
.lib LTC1624.sub
.save V(out) I(L1) ; this .raw file ships with handout.zip -- make it smaller
.end
